US08183246B2
2-Amino-4-(4-methoxyphenyl)-5-phenyl-3-furonitrile
Dissolve 236 g (974 mmol) 2-hydroxy-1-(4-methoxyphenyl)-2-phenylethanone and 83.66 g (1266 mmol) malononitrile in 470 ml DMF and, with cooling on an ice bath, add 86.6 ml (836.7 mmol) diethylamine. After 1 h, heat the mixture to RT and continue stirring for 4 h at RT, before adding 2.5 litre water and a few seed crystals. After 30 min, decant the supernatant water and replace with 1.25 litre of fresh water. Stir the suspension thoroughly and again decant the supernatant water. Take up the sticky crystalline residue in ethyl acetate and then concentrate under vacuum almost completely. Stir the residue with 730 ml diisopropyl ether and leave the suspension to stand overnight at RT. Then filter off the solid matter with suction and dry under vacuum. 211.5 g (57.6% of theor.) of the title compound is obtained.

reactant | 2-hydroxy-1-(4-methoxyphenyl)-2-phenylethanone | 974 mmol, 236 g | OC(C(=O)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C15H14O3
reactant | malononitrile | 1266 mmol, 83.66 g | C(CC#N)#N | C3H2N2
reactant | diethylamine | 836.7 mmol, 86.6 ml | C(C)NCC | C4H11N
reactant | water | 2.5 litre | O | H2O
solvent | DMF | 470 ml | CN(C)C=O | C3H7NO
product | 2-Amino-4-(4-methoxyphenyl)-5-phenyl-3-furonitrile | NC=1OC(=C(C1C#N)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C18H14N2O2
